US04806549
50% Sodium hydride (4.8 g, 0.1 mol) was washed with petroleum ether and suspended in dry tetrahydrofuran (50 ml) under nitrogen at -10° C. Ethyl3-(2-methoxyphenylamino)acrylate (22.4 g. 0.1 mol) in dry tetrahydrofuran (70 ml) was added dropwise to the suspension keeping the temperature to below 0° C. Cooling was removed and the mixture was stirred at ambient temperature until a deep orange colour was obtained. The mixture was recooled to -20° C. and treated dropwise with a solution of isobutyryl chloride (11.0 ml, 0.11 mol) in dry tetrahydrofuran (30 ml). The cooling bath was again removed, and the mixture stirred overnight at room temperature. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with dilute hydrochloric acid and brine, dried, filtered and evaporated. The crude product was chromatographed (silica gel, petroleum ether/dichloromethane) to afford ethyl 2-isobutyryl-3-(2-methoxyphenylamino)acrylate as an oil (22.6 g, 77.5%).

reactant | Sodium hydride | 0.1 mol, 4.8 g | [H-].[Na+]
reactant | Ethyl3-(2-methoxyphenylamino)acrylate | 0.1 mol, 22.4 g | C(C)OC(C=CNC1=C(C=CC=C1)OC)=O | C12H15NO3
reactant | isobutyryl chloride | 0.11 mol, 11.0 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 2-isobutyryl-3-(2-methoxyphenylamino)acrylate | 22.6 g, 77.5% | C(C(C)C)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C16H21NO4
